US05439917
Preparation of 2,3-dimethyl-7(2.6-difluorophenacyl)pyrrolo [2,3 -b ]pyridine hydrobromide.
A solution of 100 mg (0.68 mmol) 2,3-dimethylpyrrolo[2,3-b]pyridine and 193 mg (0.82 mmol) 2,6-difluorophenacyl bromide in 2 ml acetonitrile were refluxed for 3 h. Working up in the same manner as described in example 17 gave 145 mg (54% ) of the desired product.

reactant | 2,3-dimethylpyrrolo[2,3-b]pyridine | 0.68 mmol, 100 mg | CC1=C(C=2C(=NC=CC2)N1)C | C9H10N2
reactant | 2,6-difluorophenacyl bromide | 0.82 mmol, 193 mg | FC1=C(C(CBr)=O)C(=CC=C1)F | C8H5BrF2O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2,3-dimethyl-7(2.6-difluorophenacyl)pyrrolo [2,3 -b ]pyridine hydrobromide | 145 mg, 54% | Br.CC1=C(C=2C(N(C=CC2)CC(=O)C2=C(C=CC=C2F)F)=N1)C | InChI=1S/C17H14F2N2O.BrH/c1-10-11(2)20-17-12(10)5-4-8-21(17)9-15(22)16-13(18)6-3-7-14(16)19;/h3-8H,9H2,1-2H3;1H
